US06323197B1
160 mg of 5-(4-aminophenyl)-8-methyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine is dissolved in 2 ml of water and 2 ml of concentrated hydrochloric acid, and it is diazotized at 0° C. with a solution of 36 mg of sodium nitrite in 0.5 ml of water. Stirring is continued for 45 minutes at 0° C. To this solution at room temperature is added in drops a solution which is prepared as follows: 256 mg of copper sulfate pentahydrate is mixed in 1 ml of water with 87 mg of sodium chloride and mixed drop by drop with a solution of 68 mg of sodium sulfite in 0.6 ml of water. The white precipitate is separated from the supernatant by decanting, washed twice with water and dissolved in concentrated hydrochloric acid. After this solution is added, it is heated for 10 minutes in a steam bath and stirred for 1 more hour at room temperature. It is diluted with water, made alkaline with ammonia solution and extracted with ethyl acetate. The ethyl acetate phase is washed with saturated sodium chloride solution, dried, filtered and concentrated by evaporation. After chromatography on silica gel with methylene chloride:ethanol=10:1, 87 mg of 5-(4-chlorophenyl)-8-methyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine is obtained.

reactant | 5-(4-aminophenyl)-8-methyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine | 160 mg | NC1=CC=C(C=C1)C1=NN2C(CC3=C1C=C1C(=C3)OCO1)=NC=C2C | C19H16N4O2
reactant | sodium nitrite | 36 mg | N(=O)[O-].[Na+]
reactant | sodium chloride | 87 mg | [Cl-].[Na+]
reactant | sodium sulfite | 68 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 2 ml | O | H2O
solvent | hydrochloric acid | 2 ml | Cl | ClH
solvent | water | 0.5 ml | O | H2O
solvent | water | 1 ml | O | H2O
solvent | water | 0.6 ml | O | H2O
catalyst | copper sulfate pentahydrate | 256 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 5-(4-chlorophenyl)-8-methyl-11H-1,3-dioxolo[4,5-h]imidazo[1,2-c][2,3]benzodiazepine | 87 mg | ClC1=CC=C(C=C1)C1=NN2C(CC3=C1C=C1C(=C3)OCO1)=NC=C2C | C19H14ClN3O2
